US07365065B2
4-Chloro-3-nitrobenzenesulfonyl chloride (0.46 g, 1.8 mmol) was added to a solution of 4-(3-chloro-4-(methylaminomethyl)thiophene-2-carbonyl)benzomorpholine hydrochloride (0.54 g, 1.49 mmol) and triethylamine (0.50 ml, 0.36 g, 3.6 mmol) in dichloromethane (20 ml) while cooling in an ice/water bath. The mixture was allowed to warm to room temperature and stirred for 3 days. The mixture was reduced and chromatographed to afford 4-(3-chloro(N-(4-chloro-3-nitrobenzenesulphonyl)-N-methylaminomethyl)thiophene-2-carbonyl)benzomorpholine (0.61 g, 76%) as a white crystalline solid.

reactant | 4-Chloro-3-nitrobenzenesulfonyl chloride | 1.8 mmol, 0.46 g | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3Cl2NO4S
reactant | 4-(3-chloro-4-(methylaminomethyl)thiophene-2-carbonyl)benzomorpholine hydrochloride | 1.49 mmol, 0.54 g | Cl.ClC1=C(SC=C1CNC)C(=O)N1CCOC2=C1C=CC=C2
reactant | triethylamine | 3.6 mmol, 0.50 ml, 0.36 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(3-chloro(N-(4-chloro-3-nitrobenzenesulphonyl)-N-methylaminomethyl)thiophene-2-carbonyl)benzomorpholine | 0.61 g, 76% | ClC1=C(SC=C1CN(C)S(=O)(=O)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C(=O)N1CCOC2=C1C=CC=C2 | C21H17Cl2N3O6S2
